US04385066
N-(2-(4-Carbomethoxyphenyl)-1-methylethyl)-2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine
A mixture of 3-trifluoromethylphenyl glyoxal (2.1 g) and 2-(4-carbomethoxyphenyl)-1-methylethanamine (2.0 g) in benzene (150 ml) was refluxed under Dean & Stark conditions for 2 hours. The solvent was replaced with methanol (150 ml), the mixture was cooled in ice and sodium borohydride (4.0 g) was added portionwise. The mixture was stirred at ambient temperature for 3 hours, the solvent was evaporated and the residue was partitioned between water (100 ml) and chloroform (100 ml). The aqueous phase was further extracted with chloroform (100 ml), the combined organic extracts were dried (Mg SO4) and evaporated to an oil which was crystallised from hexane to give the title compound, m.p. 80°-83° as a 25:75 mixture of diastereoisomers. (25% RR,SS:75% RS,SR). τ(CDCl3) 8.95 (3H,d,J=6 Hz) 6.6-7.6 (5H,m), 6.13 (3H,s), 5.3 (1H,m) 2.72 (2H,d,J= 8 Hz), 2.1-2.5 (4H,m), 1.92 (2H,d,J=8 Hz).

reactant | 3-trifluoromethylphenyl glyoxal | 2.1 g | FC(C=1C=C(C=CC1)C(=O)C=O)(F)F | C9H5F3O2
reactant | 2-(4-carbomethoxyphenyl)-1-methylethanamine | 2.0 g | C(=O)(OC)C1=CC=C(C=C1)CC(N)C | C11H15NO2
reactant | methanol | 150 ml | CO | CH4O
reactant | sodium borohydride | 4.0 g | [BH4-].[Na+]
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | N-(2-(4-Carbomethoxyphenyl)-1-methylethyl)-2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C20H22F3NO3
